US07229999B2
3-Bromo-2-butoxy-5-methyl-pyridine
Sodium hydride dispersion in oil (55–65%, 1.16 g) was added in portions to a well stirred solution of 1-butanol (2.4 mL, 27 mmol) in DMF (50 mL). After stirring the mixture for 1 h at room temperature 3-bromo-2-chloro-5-methyl-pyridine (5.0 g, 24 mmol) was added and stirring continued for 18 h at room temperature and for 4 h at 70° C. The cooled mixture was poured into saturated sodium bicarbonate solution and extracted with diethyl ether. Organic phases were pooled, dried with Na2SO4 and the solvent was evaporated. The residue was purified by column chromatography on silica (n-heptane/ethyl acetate 8:1) to yield 4.2 g of the title compound as a light red oil, MS (EI) 243.1, 245.1 (M)+.

reactant | Sodium hydride | [H-].[Na+]
reactant | 1-butanol | 27 mmol, 2.4 mL | C(CCC)O | C4H10O
reactant | 3-bromo-2-chloro-5-methyl-pyridine | 24 mmol, 5.0 g | BrC=1C(=NC=C(C1)C)Cl | C6H5BrClN
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 3-Bromo-2-butoxy-5-methyl-pyridine | 4.2 g | BrC=1C(=NC=C(C1)C)OCCCC | C10H14BrNO
